US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.57 g) and (4-bromophenyl)[(4-dimethylaminophenyl)methyl]amide (0.61 g) as starting materials, 5-benzyloxy-N-(4-bromophenyl)-N-[(4-dimethylaminophenyl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.14 g) was obtained. By the reaction and treatment in the same manner as in Example 133 using this compound, N-(4-bromophenyl)-N-[(dimethylaminophenyl)methyl]-5-hydroxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.23 g) was obtained. melting point: 218-220° C.

reactant | 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.57 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)O | C18H18O3
reactant | (4-bromophenyl)[(4-dimethylaminophenyl)methyl]amide | 0.61 g | BrC1=CC=C(C=C1)[N-]CC1=CC=C(C=C1)N(C)C
product | 5-benzyloxy-N-(4-bromophenyl)-N-[(4-dimethylaminophenyl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.14 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC1=CC=C(C=C1)N(C)C)C1=CC=C(C=C1)Br | C33H33BrN2O2
